US04151168
A. 5-Phenyl-2-oxazolecarboxaldehyde Oxime
Hydroxylamine hydrochloride (54 g, 0.78 mole) and 1-[[[5-phenyl-2-oxazolyl]methylene]amino]-2,4-imidazolidinedione (105 g, 0.39 mole) were refluxed with stirring in a solution of water (100 ml) and glacial acetic acid (1.0 l.) for five hrs. An additional 54 g of hydroxylamine hydrochloride was added while the mixture was refluxed another five hrs. The hot solution was treated with Darco, filtered and poured into water (5.0 l.). The solid was again refluxed in a mixture of hydroxylamine hydrochloride (50 g), acetic anhydride (800 ml) and water (80 ml) for four hrs. The solution was cooled, poured into water (3.0 l.) and the resulting solid was collected and dried (48 g, 65%). Recrystallization of a sample from acetonitrile gave product of analytical purity, m.p. 208°-210°.

reactant | Hydroxylamine hydrochloride | 0.78 mole, 54 g | Cl.NO
reactant | 1-[[[5-phenyl-2-oxazolyl]methylene]amino]-2,4-imidazolidinedione | 0.39 mole, 105 g | C1(=CC=CC=C1)C1=CN=C(O1)C=NN1C(NC(C1)=O)=O | C13H10N4O3
reactant | water | 100 ml | O | H2O
reactant | hydroxylamine hydrochloride | 54 g | Cl.NO
reactant | Darco | C | CH4
solvent | acetic acid | 1.0 l | C(C)(=O)O | C2H4O2
product | 5-Phenyl-2-oxazolecarboxaldehyde Oxime | C1(=CC=CC=C1)C1=CN=C(O1)C=NO | C10H8N2O2
